US04317817
4-Benzoyl-5α-androstane-3,17-dione
4-Benzoyl-17β-hydroxy-5α-androstan-3-one made as in Example 1 (788 mg, 2 mmole) in 2 ml of CH2Cl2 is added to pyridinium chlorochromate (650 mg, 3 mmole) suspended in CH2Cl2 (2 ml) at 25° C. After 2 hours, ether is added and the solvent decanted. This is then filtered through Florisil, the eluate evaporated and the residue recrystallized from chloroform-heptane.

reactant | 4-Benzoyl-17β-hydroxy-5α-androstan-3-one | C(C1=CC=CC=C1)(=O)C1[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)O | C26H34O3
reactant | pyridinium chlorochromate | 3 mmole, 650 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | ether | CCOCC | C4H10O
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-Benzoyl-5α-androstane-3,17-dione | C(C1=CC=CC=C1)(=O)C1[C@@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | C26H32O3
